US05580866
A solution of benzoyl chloride (3.93 g) in dichloromethane (50 ml) was added dropwise at room temperature to a stirred solution of 6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine (4.5 g, prepared in a similar manner to its hydrochloride, Example 1 above) and triethylamine (2.82 g) in dichloromethane (100 ml). The reaction mixture was stirred at room temperature for 15 minutes, washed with water, dried and the solvent was removed by evaporation. Purification of the residue by flash chromatography using dichloromethane as eluent gave 4-benzoyl-6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine, which was recrystallised from ethanol/water. Yield 5.93 g (m.p. 64°-72° C.).

reactant | benzoyl chloride | 3.93 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine | ClC1=CC=CC2=C1CNCCS2 | C9H10ClNS
reactant | hydrochloride | Cl | ClH
reactant | triethylamine | 2.82 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-benzoyl-6-chloro-2,3,4,5-tetrahydro-1,4-benzothiazepine | C(C1=CC=CC=C1)(=O)N1CCSC2=C(C1)C(=CC=C2)Cl | C16H14ClNOS
